US08389509B2
To a solution of 4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde (1.0 g, 2.60 mmol) in DCM (10 mL) was added acetic acid (15 mL) and azetidine-3-carboxylic acid (1.5 eq, 3.90 mmol). The mixture was stirred at RT for 40 min., then a suspension of sodium triacetoxyborohydride (1 eq, 2.60 mmol) in DCM (30 mL) was added dropwise over 1.5 h. The volatiles were removed in vacuo, water (200 mL) was added and the resulting solid was collected by filtration. Ethyl acetate (40 mL) was added to the crude product and after sonication for 30 min, the solids were collected by filtration and washed additional ethyl acetate to afford 1-(4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl) azetidine-3-carboxylic acid (777 mg, 1.65 mmol) as a white solid. The compound had an HPLC retention time=2.55 min. Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.2% H3PO4; Solvent B=90% MeOH, 10% H2O, 0.2% H3PO4. LC/MS M+1=471.05. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.21-3.25 (m, 3H), 3.40-3.44 (m, 2H), 3.64 (s, 2H), 7.51 (d, J=8.3 Hz, 2H), 7.69 (ddd, J=0.8 Hz, 4.7 Hz, 8.3 Hz, 1H), 7.90 (d, J=8.0 Hz, 1H), 8.03 (d, J=8.3 Hz, 2H), 8.20 (dt, J=1.9 Hz, 7.7 Hz, 1H), 8.66 (dd, J=1.1 Hz, 4.1 Hz, 1 H) 8.73 (s, 1H).

reactant | 4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | 2.60 mmol, 1.0 g | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C18H10F3N5O2
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
reactant | azetidine-3-carboxylic acid | 3.90 mmol, 1.5 eq | N1CC(C1)C(=O)O | C4H7NO2
reactant | sodium triacetoxyborohydride | 2.60 mmol, 1 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(5-(1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl) azetidine-3-carboxylic acid | 1.65 mmol, 777 mg | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C22H17F3N6O3
